US08071766B2
To a solution of 3-hydroxydihydrofuran-2(3H)-one (5 g, 49 mmol) in anhydrous DMF (50 mL) was added imidazole (6.7 g, 98 mmol) and TBDMS chloride (8.1 g, 54 mmol). The reaction was allowed to stir under an N2 atmosphere at room temperature overnight. The reaction was diluted with diethyl ether and washed with 1 N aqueous HCl×2 then brine×1. The organic phase was dried over Na2SO4 and the solvent removed in vacuo to yield 3-(tert-butyldimethylsilyloxy)dihydrofuran-2(3H)-one (11 g, 49 mmol) as a clear oil. [M+H] calc'd for C10H20O3Si, 217. found, 217.

reactant | 3-hydroxydihydrofuran-2(3H)-one | 49 mmol, 5 g | OC1C(OCC1)=O | C4H6O3
reactant | imidazole | 98 mmol, 6.7 g | N1C=NC=C1 | C3H4N2
reactant | TBDMS chloride | 54 mmol, 8.1 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(tert-butyldimethylsilyloxy)dihydrofuran-2(3H)-one | 49 mmol, 11 g | [Si](C)(C)(C(C)(C)C)OC1C(OCC1)=O | C10H20O3Si
